US09334263B2
To a solution of tert-butyl 4-(5-(methoxy(methyl)carbamoyl)pyrimidin-2-yl)piperazine-1-carboxylate (2.6 g, 7.4 mmol) in dry THF (30 mL) was added benzylmagnesium bromide (1 M in THF, 29.6 mL) at 0° C. under N2, and the mixture was stirred at room temperature for 3 hours. LCMS showed the reaction was completed. The reaction mixture was quenched with 1 M HCl and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=5:1) to get tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate (2 g, 73%) as a yellow solid. MS (ES+) C20H24N4O3 requires: 368, found: 313 [M-56+H]+.

reactant | tert-butyl 4-(5-(methoxy(methyl)carbamoyl)pyrimidin-2-yl)piperazine-1-carboxylate | 7.4 mmol, 2.6 g | CON(C(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C16H25N5O4
reactant | benzylmagnesium bromide | 1 M, 29.6 mL | C(C1=CC=CC=C1)[Mg]Br
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(5-benzoylpyrimidin-2-yl)piperazine-1-carboxylate | 2 g, 73% | C(C1=CC=CC=C1)(=O)C=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H24N4O3
